US07291619B2
To a solution of N-(2-nitrophenyl)-piperazine (30 g, 145 mmol) and triethylamine (28.3 mL, 203 mmol) in 600 mL of CH2Cl2 was added Boc2O (38 g, 174 mmol). After stirring overnight, the solution was washed with saturated aqueous sodium bicarbonate and brine, and then dried (Na2SO4), filtered and concentrated to afford an orange oil. To a solution of the oil in 2 L of ethanol was added 6 g of 5% Pd/C. After shaking under 60 psi H2 overnight, the solution was filtered and concentrated to afford about 39 g (140 mmol, 97%) of 1-boc-4-(2-aminophenyl)-piperazine as abrown solid. LRMS: 278.1 (M+1)

reactant | N-(2-nitrophenyl)-piperazine | 145 mmol, 30 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | triethylamine | 203 mmol, 28.3 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 174 mmol, 38 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 2 L | C(C)O | C2H6O
catalyst | Pd/C | 6 g | [Pd] | Pd
product | 1-boc-4-(2-aminophenyl)-piperazine | 140 mmol, about 39 g, 97% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)N | C15H23N3O2
